US04810694
10 g of N-bromosuccinimide are added in small portions over approximately two hours to a mixture of 5 g of benzonorbornene, stirred into 10 cm3 of water and 10 cm3 of sulphuric acid and heated to a temperature between 50° C. and 55° C. The progress of the reaction is followed by gas phase chromatography. When the benzonorbornene has been completely converted, the reaction mixture, at room temperature, is extracted with methylene chloride. The organic phase is washed with sodium bicarbonate until the pH of the washings is neutral and is then dried over magnesium sulphate and concentrated. 7 g of crude 2-bromobenzonorbornene are obtained and purified by distillation under reduced pressure. After distillation, 4 g of pure product are obtained. This product is a light-yellow liquid whose boiling point is 70°-75° C. at a pressure of approximately 2.65 10-5 bar. Its proton nuclear magnetic resonance spectrum corresponds to the 2-bromobenzonorbornene structure.

reactant | N-bromosuccinimide | 10 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzonorbornene | 5 g | C12C3=C(C(CC1)C2)C=CC=C3 | C11H12
reactant | sulphuric acid | 10 cm3 | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 cm3 | O | H2O
product | 2-bromobenzonorbornene | 7 g | BrC1CC2C3=C(C1C2)C=CC=C3 | C11H11Br
